US04497808
A solution of 2.1 g of 3-chloroperbenzoic acid in 40 ml of methylene chloride is added dropwise to a mixture of 3.3 g of 2,6-dimethyl-4-(3-pyridyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester and 1.4 g of sodium acetate in 50 ml of methylene chloride. The reaction mixture is stirred at room temperature for 20 hours and extracted with a 2N aqueous sodium carbonate solution and then twice with an aqueous iron(II) sulphate solution. The organic solution is dried and concentrated by evaporation under reduced pressure. The residue is chromatographed over 400 g of silica gel, there being used as liquid phase a 95:5 mixture of chloroform and methanol and the chromatograph being effected by means of thin layer chromatography (silica gel; mobile phase: chloroform/methanol 95:5). The eluate, which contains the main portion of the desired compound, is concentrated by evaporation, and the residue is crystallised from acetonitrile. In this manner, 2,6-dimethyl-4-(1-oxido-3-pyridyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester is obtained, which melts at 191°-193° and is identical to the product obtainable in accordance with the process of Example 2.

reactant | 3-chloroperbenzoic acid | 2.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2,6-dimethyl-4-(3-pyridyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | 3.3 g | C(C)OC(=O)C1=C(NC(=C(C1C=1C=NC=CC1)C(=O)OCC)C)C | C18H22N2O4
reactant | sodium acetate | 1.4 g | C(C)(=O)[O-].[Na+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2,6-dimethyl-4-(1-oxido-3-pyridyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C=1C=[N+](C=CC1)[O-])C(=O)OCC)C)C | C18H22N2O5
